US04254229
270 parts of benzothiazole and 160 parts of sodium hydroxide are boiled under reflux for 3 hours in 400 parts of water. After cooling to 70° C., 250 parts of methanol are added, followed by the dropwise addition over a period of 2 hours at 70° C. of a solution of 260 parts of 2-chloropropylamine·HCl in 500 parts of water. After stirring for another 3 hours at 100° C., the mixture is cooled and a solution of 100 parts of sodium hydroxide in 200 parts of water is added to it. The organic phase is separated off, the aqueous phase is washed twice with 200 parts of toluene and the combined organic phases are concentrated by evaporation, leaving 346 parts of 2-(3-aminopropylthio)-aniline in the form of a yellowish liquid boiling at 130° C./0.04 mm.

reactant | benzothiazole | S1C=NC2=C1C=CC=C2 | C7H5NS
reactant | sodium hydroxide | [OH-].[Na+]
reactant | 2-chloropropylamine·HCl | ClC(CN)C.Cl
solvent | water | O | H2O
solvent | methanol | CO | CH4O
product | 2-(3-aminopropylthio)-aniline | NCCCSC1=C(N)C=CC=C1 | C9H14N2S
